datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[c:9]1([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:15])([H:4])[H:5].[c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],65.6888
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])[H:10])([H:8])[H:9],27.6144
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:18])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])([H:15])([H:16])[H:17],44.7688
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:12])([H:10])[H:11],154.641
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])[H:9])([H:7])[H:8],45.1872
[C:0](#[C:1][C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([C:8](=[C:9]([C:10]([C:11]([H:25])([H:26])[H:27])[C:12](=[C:13]([H:29])[H:30])[H:28])[H:24])[H:23])([H:21])[H:22])[H:14]>>[C:0](#[C:1][C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([H:21])([H:22])[C:8]([H:23])=[C:9]([H:24])[C:10]1([C:11]([H:25])([H:26])[H:27])[C:12](=[C:13]([H:29])[H:30])[H:28])[H:14],129.327
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:15][H:18],28.267104
[N:0]([N:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4]>>[N:0]([H:3])([H:4])[H:6].[N:1](=[N:2][H:7])[H:5],221.9
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[O:13][O:14][H:15]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[H:7][O:13][O:14][H:15],34.59293544
[C:0](#[C:1][H:3])[H:2].[C:4]([H:5])[H:6]>>[C:0]1([H:2])=[C:1]([H:3])[C:4]1([H:5])[H:6],0.157737
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]=[C:7]([S:8][H:10])[H:9]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:9])[H:3].[S:6]=[C:7][S:8][H:10],140.624
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[H:18][H:19]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:19])([H:9])([H:10])[H:11].[H:18],87.4456
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5][O:6][H:7]>>[C:0](=[O:1])([H:3])[H:4].[H:2][O:5][O:6][H:7],0.0
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][O:24],8.811504
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([S:9][H:12])([H:10])[H:11]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]([S:9][H:12])([H:10])[H:11],52.3
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:12](=[C:13]([H:15])[H:16])[H:14])[H:7])[H:6],-0.12552
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10][H:11]>>[C:0]([N:1][C:2]([H:7])([H:8])[H:9])([H:3])([H:4])[H:5].[H:6][O:10][H:11],0.0
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[C:9]([O:10])([H:11])([H:12])[H:13]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:10][C:9]([H:11])([H:12])[H:13],17.045616
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[H:13])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:12])([C:11]([H:14])([H:15])[H:16])[H:13],99.0353
